US06087380
f. Methyl 2-[2-(4-cyanophenyl)-ethyl]-quinazoline-7-carboxylate
0.6 g (1.8 mmol) of ethyl 3-[3-(4-cyanophenyl)-propionylamino]-4-formyl-benzoate and 10 ml of methanolic ammonia solution were agitated in a pressure vessel for 36 hours. Then the solvent was distilled off, the residue was chromatographed on silica gel and eluted with methylene chloride containing 0 to 1% methanol. Yield: 0.35 g (62% of theory), Rf value: 0.38 (silica gel, ethyl acetate/cyclohexane=1:1)

reactant | ethyl 3-[3-(4-cyanophenyl)-propionylamino]-4-formyl-benzoate | 1.8 mmol, 0.6 g | C(#N)C1=CC=C(C=C1)CCC(=O)NC=1C=C(C(=O)OCC)C=CC1C=O | C20H18N2O4
reactant | ammonia | 10 ml | N | H3N
product | Methyl 2-[2-(4-cyanophenyl)-ethyl]-quinazoline-7-carboxylate | C(#N)C1=CC=C(C=C1)CCC1=NC2=CC(=CC=C2C=N1)C(=O)OC | C19H15N3O2
